US05843942
A mixture of methyl-4-[N-(2-benzoyloxy-4-bromobenzyl)-N-ethylamino]benzoate (5.64 g) and cuprous cyanide (1.28 g) in N,N-dimethylformamide (100 ml) was stirred and heated at 140° C. for 10 hours in an oil bath. The mixture was allowed to cool and was poured into a solution of ethylenediamine (10 ml) in water (240 ml). The resulting mixture was stirred for 30 minutes and then extracted three times with EtoAc (50 ml each time). The oil obtained on removal of the solvent was subjected to chromatography on silica eluting with dichloromethane to give methyl-4-[N-(2-benzyloxy-4-cyanobenzyl)-N-ethylamino]benzoate, yield 3.9 g.

reactant | methyl-4-[N-(2-benzoyloxy-4-bromobenzyl)-N-ethylamino]benzoate | 5.64 g | COC(C1=CC=C(C=C1)N(CC)CC1=C(C=C(C=C1)Br)OC(C1=CC=CC=C1)=O)=O | C24H22BrNO4
reactant | ethylenediamine | 10 ml | C(CN)N | C2H8N2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 240 ml | O | H2O
product | methyl-4-[N-(2-benzyloxy-4-cyanobenzyl)-N-ethylamino]benzoate | COC(C1=CC=C(C=C1)N(CC)CC1=C(C=C(C=C1)C#N)OCC1=CC=CC=C1)=O | C25H24N2O3
